US05461060
Then, a solution of 4.4 mmol of lithium diisopropylamide in 2.8 ml of tetrahydrofuran was added dropwise to a solution of 392 mg (2.0 mmol) 1-butyl-5-ethyluracil in 9 ml of tetrahydrofuran under a nitrogen atmosphere at -70° C. and stirred for 70 minutes at -70° C. and further 5 minutes at -25° C. The mixture was cooled to -70° C. again, added with a solution of 567 mg (2.6 mmol) diphenyl disulfide in 3 ml of tetrahydrofuran, stirred for 20 minutes, added with 1 ml of acetic acid, brought to room temperature, washed with saturated aqueous solution of sodium chloride and concentrated under reduced pressure. The residue was adsorbed on a silica gel, eluted with 10% ethyl acetate/hexane and crystallized from hexane to obtain 40 mg of 1-butyl-5-ethyl-6-phenylthiouracil (Yield: 7%).

reactant | lithium diisopropylamide | 4.4 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-butyl-5-ethyluracil | 2.0 mmol, 392 mg | C(CCC)N1C(=O)NC(=O)C(=C1)CC | C10H16N2O2
reactant | diphenyl disulfide | 2.6 mmol, 567 mg | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | tetrahydrofuran | 2.8 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 1-butyl-5-ethyl-6-phenylthiouracil | 40 mg, Yield: 7% | C(CCC)N1C(=S)NC(=O)C(=C1C1=CC=CC=C1)CC | C16H20N2OS
